US08497371B2
2-(4-{[(2-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (26)
Pipemidic acid (25 mg, 0.0824 mmol) and 2-iodophenyl isothiocyanate (21.5 mg, 0.0824 mmol) were used. Purification on silica yielded compound 26 in Table 1, below (35 mg, 75%). 1H NMR (300 MHz, CDCl3) δ 9.36-9.30 (m, 1H), 8.69-8.65 (m, 1H), 7.89-7.82 (m, 1H), 7.62-7.55 (m, 1H), 7.41-7.32 (m, 1H), 7.00-6.92 (m, 1H), 4.40-4.01 (m, 10H), 1.53-1.44 (m, 3H) ppm.

reactant | Pipemidic acid | 0.0824 mmol, 25 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 2-iodophenyl isothiocyanate | 0.0824 mmol, 21.5 mg | IC1=C(C=CC=C1)N=C=S | C7H4INS
product | 2-(4-{[(2-iodophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | IC1=C(C=CC=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21IN6O3S
